US06187446B1
The three wafers with porous silicon and a wafer of polished silicon introduced for comparative purposes were silanised in a cup containing 3-aminopropyltriethoxysilane (Sigma Chemical Co, St Louis, US) and 1 g of APTES in 9 ml of water, the pH value being adjusted to 3.5 with the aid of 6 M HCl. The silanisation was performed in a water bath at 75° C. for 3 h and was followed by abundant washing with water for 30 min. Careful agitation took place during each stage of the immobilisation process. Then, the wafers were placed in a solution of 2.5% glutaraldehyde (GA) (grade II, Sigma Chemical Co, St Louis, US) in 0.1 M phosphate buffer (PBS) for 2 h. The GA activation was followed by washing with PBS for 30 min. Finally, glucose oxidase (GOD) was associated with the wafers as a result of a treatment with 10 mg of glucose oxidase (EC 1.1.3.4, type X-S, Aspergillus niger) in 2 ml of PBS overnight (8 h), which was followed by washing in PBS for 1 h.

reactant | 3-aminopropyltriethoxysilane | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | APTES | 1 g | CCO[Si](CCCN)(OCC)OCC | C9H23NO3Si
reactant | HCl | 6 M | Cl | ClH
reactant | water | 9 ml | O | H2O
product | glucose | 10 mg | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
